US09062015B2
FS114: 1-[2-Methyl-5-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-phenyl]piperazine
100 mg (0.48 mmol) of 1-(5-chloro-2-methylphenyl)piperazine and 300 mg (0.95 mmol) and of 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane are dissolved in 2 ml of THF, 302 mg (1.43 mmol) of potassium phosphate, 3 mg of palladium acetate and 11 mg of 2-dicylcohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl are added. The reaction mixture is degassed a number of times and stirred at 120° C. under nitrogen atmosphere for 4 h, subsequently diluted with water and extracted three times with ethyl acetate. The combined organic phases are dried over Na2SO4 and evaporated. The crude product is purified by means of preparative HPLC and converted into the hydrochloride using methanolic HCl.

reactant | 1-(5-chloro-2-methylphenyl)piperazine | 0.48 mmol, 100 mg | ClC=1C=CC(=C(C1)N1CCNCC1)C | C11H15ClN2
reactant | 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C | C20H31BO2
reactant | potassium phosphate | 1.43 mmol, 302 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-dicylcohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl | 11 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | palladium acetate | 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-[2-Methyl-5-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-phenyl]piperazine | CC1=C(C=C(C=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)N1CCNCC1 | C25H34N2
